data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c03936_sup_1.json
{"doi": "10.1021_acs.orglett.3c03936_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical Ni-catalyzed 1,4-diarylation of 1,3-dienes with aryl iodides to form 1,4-diaryl-2-alkenes", "mechanism_family": ["electrocatalysis_inner_sphere", "radical_cathodic"], "electrochemical_role": "Cathodic reduction of Ni(II) precatalyst to active low-valent Ni(I)/Ni(0); also reduces Ni(III)-aryl intermediate B to Ni(I) C during the cycle", "key_intermediates": [{"name": "Ni(I)-Ln (active catalyst A in favored cycle)", "smiles": null, "role": "reactive"}, {"name": "ArNi(III)X-Ln (oxidative addition adduct B)", "smiles": null, "role": "transient"}, {"name": "ArNi(I)-Ln (C, after cathodic reduction)", "smiles": null, "role": "reactive"}, {"name": "Ni(I)-allyl/alkyl species D from migratory insertion of 1,3-diene", "smiles": null, "role": "reactive"}, {"name": "Ar-Ni(III)(X)-allyl intermediate E (after second oxidative addition)", "smiles": null, "role": "transient"}, {"name": "Ni(I)X-Ln (F, post reductive elimination)", "smiles": null, "role": "transient"}, {"name": "Ni(0)-Ln (alternative active species in Ni(0)/Ni(II) cycle)", "smiles": null, "role": "reactive"}], "electron_flow": "Cathode reduces Ni(II)X2 to Ni(I) (A); A undergoes oxidative addition with ArI to give Ni(III)-Ar (B), which is cathodically reduced to ArNi(I) (C); 1,3-diene migratory insertion gives allyl-Ni(I) (D), a second ArI oxidative addition yields Ni(III) intermediate E, and reductive elimination delivers the 1,4-diaryl product 3 with regeneration of Ni(I) A.", "rate_determining_step": null, "probe_reagents": [{"name": "NiBr2·diglyme (CV of catalyst)", "smiles": null, "purpose": "redox_probe", "observation": "Redox peak at E1/2 = -1.39 V (vs SCE) assigned to Ni(II)/Ni(I)"}, {"name": "NiBr2·diglyme + 1a (diene)", "smiles": null, "purpose": "redox_probe", "observation": "Two peaks at -1.39 V (Ni(II)/Ni(I)) and -2.60 V (free diene); no significant interaction of Ni(I)X with diene"}, {"name": "NiBr2·diglyme + 1a + 2aa (PhI)", "smiles": "Ic1ccccc1", "purpose": "intermediate_trap", "observation": "Disappearance of -1.39 V peak and appearance of -2.60 V (Ni(I)/Ni(0)) peak, indicating Ni(I)X is the species that undergoes oxidative addition with ArI to form ArNi(III)X"}, {"name": "Bromobenzene (2ab) CV", "smiles": "Brc1ccccc1", "purpose": "redox_probe", "observation": "E1/2 = -2.88 V (vs SCE)"}, {"name": "Iodobenzene (2aa) CV", "smiles": "Ic1ccccc1", "purpose": "redox_probe", "observation": "E1/2 = -2.50 V (vs SCE); more easily reduced than diene"}, {"name": "Stoichiometric reaction without current", "smiles": null, "purpose": "other", "observation": "Reaction proceeds, indicating Ni(0)-initiated pathway is also feasible"}], "evidence_types_used": ["cyclic_voltammetry", "stoichiometric_intermediate", "redox_probe"], "evidence_strength": "medium", "notes": "Authors propose two cycles: (favored) Ni(I)/Ni(III) pathway supported by CV showing Ni(I)X is the species engaging ArI; (alternative) Ni(0)/Ni(II) pathway not ruled out, supported by stoichiometric reaction proceeding without current — Ni(0) A inserts into ArI to form Ni(II)-Ar (B), then cathodic reduction to Ni(I) C, migratory insertion with diene to D, oxidative addition of second ArI to E (Ni(III)), reductive elimination yields product 3 and Ni(I) F, which is cathodically reduced back to Ni(0) A."}
